US04997986
N-[6-[4-[(2-Naphthalenyl)oxy]butoxy]hexyl]benzenemethanamine
2-[4-[(6-Bromohexyl)oxy]butoxy]naphthalene (2.25 g) and benzylamine (3.88 g) were stirred under nitrogen at ca. 125° for 2 h. The solution was diluted with 8% sodium bicarbonate (100 ml) and extracted with diethyl ether (2×100 ml), dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System C (98:2:1) gave the title compound as a yellow oil (2.3 g), t.l.c. (System C 40:10:1) Rf 0.71.

reactant | 2-[4-[(6-Bromohexyl)oxy]butoxy]naphthalene | 2.25 g | BrCCCCCCOCCCCOC1=CC2=CC=CC=C2C=C1 | C20H27BrO2
reactant | benzylamine | 3.88 g | C(C1=CC=CC=C1)N | C7H9N
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | N-[6-[4-[(2-Naphthalenyl)oxy]butoxy]hexyl]benzenemethanamine | 2.3 g | C1=C(C=CC2=CC=CC=C12)OCCCCOCCCCCCNCC1=CC=CC=C1 | C27H35NO2
